US09163012B2
To a stirred solution of 3-(1,5-dimethyl-1H-pyrazol-3-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (50 mg, 0.19 mmol) in dry CH2Cl2 (1 mL) was added TFA (2 mL, 20% in CH2Cl2) at 0° C. The reaction mixture was stirred at room temperature for 3 h. TLC showed the disappearance of starting material. The reaction mixture was concentrated in vacuum to afford crude 1,5-dimethyl-3-pyrrolidin-3-yl-1H-pyrazole (33 mg, 91%), which was used for the next step without purified.

reactant | 3-(1,5-dimethyl-1H-pyrazol-3-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.19 mmol, 50 mg | C(C)(C)(C)OC(=O)N1CC(CC1)C1=NN(C(=C1)C)C | C14H23N3O2
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 1,5-dimethyl-3-pyrrolidin-3-yl-1H-pyrazole | 33 mg, 91% | CN1N=C(C=C1C)C1CNCC1 | C9H15N3
